US07022725B2
To a solution of ethyl 5-(4,5-dichloro-2-thienyl)isoxazole-4-carboxylate (3.30 g) in tetrahydrofuran (60 ml) was gently added diisobutylaluminum hydride (0.95 M hexane solution, 29.7 ml) at 0° C. and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into dilute hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was dissolved in toluene (60 ml), thionyl chloride (2.02 g) was added dropwise at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, saturated aqueous sodium hydrogencarbonate was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and 4-chloromethyl-5-(4,5-dichloro-2-thienyl)isoxazole (2.41 g, yield 79%) was obtained as crystals from a fraction eluted with ethyl acetate-hexane (1:9, volume ratio) and recrystallized from hexane to give a colorless prism. melting point: 60–61° C.

reactant | ethyl 5-(4,5-dichloro-2-thienyl)isoxazole-4-carboxylate | 3.30 g | ClC=1C=C(SC1Cl)C1=C(C=NO1)C(=O)OCC | C10H7Cl2NO3S
reactant | diisobutylaluminum hydride | 0.95 M, 29.7 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4-chloromethyl-5-(4,5-dichloro-2-thienyl)isoxazole | 2.41 g, yield 79% | ClCC=1C=NOC1C=1SC(=C(C1)Cl)Cl | C8H4Cl3NOS
